US05006540
(b) 3-(2-Hydroxycyclohexyl-amino)-sydnonimine hydrochloride
A mixture of 13.35 g of N-tert.-butyl-N-(2-hydroxycyclohexyl)-hydrazine hydrochloride, 3.1 g of sodium cyanide and 50 ml of water is stirred in an ice bath and a 39% strength formalin solution (5.7 g) is added dropwise. The pH of the mixture is brought to 7 to 7.5 and the mixture is stirred at room temperature for 3 hours. The pH is then brought to 1 with concentrated hydrochloric acid and a solution of 6 g of sodium nitrite in 25 ml of water is added dropwise. After one hour, the nitroso compound is extracted with diethyl ether, the ethereal phase is dried and ethereal HCl is added. After 2 days, the precipitate is filtered off with suction and recrystallized from isopropanol/ethyl acetate. Yield: 4.5 g melting point: 174°-5° C. (decomp.)

reactant | N-tert.-butyl-N-(2-hydroxycyclohexyl)-hydrazine hydrochloride | 13.35 g | Cl.C(C)(C)(C)N(N)C1C(CCCC1)O
reactant | sodium cyanide | 3.1 g | [C-]#N.[Na+]
reactant | formalin | 5.7 g | C=O | CH2O
reactant | hydrochloric acid | Cl | ClH
reactant | sodium nitrite | 6 g | N(=O)[O-].[Na+]
solvent | water | 25 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | 3-(2-Hydroxycyclohexyl-amino)-sydnonimine hydrochloride | Cl.OC1C(CCCC1)N[N+]=1[N-]OC(C1)=N | InChI=1S/C8H14N4O2.ClH/c9-8-5-12(11-14-8)10-6-3-1-2-4-7(6)13;/h5-7,9,13H,1-4H2,(H,10,11);1H
